US07485722B2
[4′-(2-Oxo-1-oxa-3-aza-spiro[4.5]dec-3-ylmethyl)-biphenyl-4-yl methoxy]-acetaldehyde
3-(4′-Allyloxymethyl-biphenyl-4-ylmethyl)-1-oxa-3-aza-spiro[4.5]decan-2-one (200 mg, 0.51 mmol) was dissolved in DCM/methanol (4:1, 7.5 mL) and was cooled to −78° C. in dry ice-acetone bath. O3 was bubbled through the solution for 15 min. Thin layer chromatography (TLC) confirmed the completion of the reaction at this stage. Thiourea was added to the reaction mixture and stirred at low temperature for 0.5 hr. The cooling bath was removed and the reaction mixture was allowed to warm to room temperature, and stirred overnight. The reaction mixture was concentrated, and the residue was purified on silica gel eluting with 5˜20% ethyl acetate in hexane to give the product as a white solid (80 mg, 41%). 1H NMR (300 MHz, CDCl3): δ (ppm) 9.76 (s, 1H), 7.63 (m, 4H), 7.44 (d, 2H), 7.35 (d, 2H), 4.7 (s, 2H), 4.47 (s, 2H), 4.16 (s, 2H), 3.14 (s, 2H), 1.78 (m, 4H), 1.45 (m, 6H).

reactant | 3-(4′-Allyloxymethyl-biphenyl-4-ylmethyl)-1-oxa-3-aza-spiro[4.5]decan-2-one | 0.51 mmol, 200 mg | C(C=C)OCC1=CC=C(C=C1)C1=CC=C(C=C1)CN1C(OC2(C1)CCCCC2)=O | C25H29NO3
reactant | Thiourea | NC(=S)N | CH4N2S
reactant | DCM methanol | 7.5 mL | C(Cl)Cl.CO
solvent | dry ice acetone | C(=O)=O.CC(=O)C
product | [4′-(2-Oxo-1-oxa-3-aza-spiro[4.5]dec-3-ylmethyl)-biphenyl-4-yl methoxy]-acetaldehyde | 80 mg, 41% | O=C1OC2(CN1CC1=CC=C(C=C1)C1=CC=C(C=C1)COCC=O)CCCCC2 | C24H27NO4
